US07560552B2
(2E)-1-(4-nitrophenyl)-3-pyridin-4-ylprop-2-en-1-one
A suspension of 4′-nitroacetophenone (5 g, 30.3 mmol) and 4-pyridinecarboxaldehyde (2.89 mL, 30.3 mmol) in water (45 mL) at room temperature was treated with 6% NaOH in H2O/ethanol (2:1)(0.606 mL), stirred overnight, and filtered. The filter cake was washed with water and small amount of ethanol then triturated with dichloromethane to provide 1.95 g (25%) of the desired product. MS(ESI(+)) m/e 255 (M+H)+.

reactant | 4′-nitroacetophenone | 30.3 mmol, 5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | 4-pyridinecarboxaldehyde | 30.3 mmol, 2.89 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | NaOH | [OH-].[Na+]
solvent | water | 45 mL | O | H2O
solvent | H2O ethanol | 0.606 mL | O.C(C)O
product | (2E)-1-(4-nitrophenyl)-3-pyridin-4-ylprop-2-en-1-one | 1.95 g, 25% | [N+](=O)([O-])C1=CC=C(C=C1)C(\C=C\C1=CC=NC=C1)=O | C14H10N2O3
